US07166598B2
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]-4-[(1H-pyrazol-4-yl)methyl]piperazine (254 mg), 2-bromoethanol (259 mg), potassium carbonate (228 mg) and tetrabutyl ammonium bromide (13 mg) in N,N-dimethylformamide (2.5 ml) was stirred at 100° C. for 2 days. After cooling, the mixture was evaporated in vacuo and water and ethyl acetate were added to the residue. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on alumina with a mixture of methylene chloride and methanol (100:1) as eluent to give (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]-4-[[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]methyl]piperazine (185 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]-4-[(1H-pyrazol-4-yl)methyl]piperazine | 254 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NNC2)CC2=CC(=C(C=C2)C)OCOCCOC)C=C(C1)C(F)(F)F)(F)F | C29H32F6N4O4
reactant | 2-bromoethanol | 259 mg | BrCCO | C2H5BrO
reactant | potassium carbonate | 228 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutyl ammonium bromide | 13 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]-4-[[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]methyl]piperazine | 185 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)CCO)CC2=CC(=C(C=C2)C)OCOCCOC)C=C(C1)C(F)(F)F)(F)F | C31H36F6N4O5
